US06489344B1
Using the conditions described in Example 139, (2-aminoethyl)[4-(2,4-dichlorophenyl)-5-(morpholin-4-ylmethyl)pyrimidin-2-yl]amine and 10.6 mg (0.061 mmol) of 2-chloro-5-nitro-6-aminopyridine afforded 191 mg (60%) of [4-(2,4-dichlorophenyl)-5-(morpholin-4-ylmethyl)pyrimidin-2-yl]{2-[(5-nitro-6-amino(2-pyridyl))amino]ethyl}amine as a yellow solid following chromatography (silica gel, 5% methanol/methylene chloride).

reactant | (2-aminoethyl)[4-(2,4-dichlorophenyl)-5-(morpholin-4-ylmethyl)pyrimidin-2-yl]amine | NCCNC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)CN1CCOCC1 | C17H21Cl2N5O
reactant | 2-chloro-5-nitro-6-aminopyridine | 0.061 mmol, 10.6 mg | ClC1=NC(=C(C=C1)[N+](=O)[O-])N | C5H4ClN3O2
solvent | methanol methylene chloride | CO.C(Cl)Cl
product | [4-(2,4-dichlorophenyl)-5-(morpholin-4-ylmethyl)pyrimidin-2-yl]{2-[(5-nitro-6-amino(2-pyridyl))amino]ethyl}amine | 191 mg, 60% | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1CN1CCOCC1)NCCNC1=NC(=C(C=C1)[N+](=O)[O-])N | C22H24Cl2N8O3
